US07067517B2
7-Trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title compound was prepared from 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenol and 1-methyl-3-(7-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carbonyl)-3H-imidazol-1-ium iodide. The crude product was subjected to preparative HPLC (66%). HPLC-MS m/z: 483.1 (M+1), Rt: 5.87 min.

reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenol | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)O)(F)F | C12H8F3NO2
reactant | 1-methyl-3-(7-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carbonyl)-3H-imidazol-1-ium iodide | [I-].C[N+]1=CN(C=C1)C(=O)N1CCCC2=CC=C(C=C12)C(F)(F)F
product | 7-Trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CCCC2=CC=C(C=C12)C(F)(F)F)(F)F | C23H16F6N2O3
